US07902252B2
2.71. Synthesis of methyl 4-(biphenyl-4-yl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate
The title compound was synthesized in two steps. First, methyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (300 mg, 1.67 mmol) and biphenyl-4-ylmagnesium bromide (13.4 mL, 6.70 mmol; 0.5 M in THF) were reacted according to General Procedure 3 to give the endo olefin-containing compound methyl 4-(biphenyl-4-yl)-1,6-dihydrocyclopenta[b]pyrrole-2-carboxylate, which was then hydrogenated according to General Procedure 6 (with 10% Pd/C), and was purified column chromatography (Isco CombiFlash) eluting with a gradient of 0-40% EtOAc/heptane to afford the title compound. 430 mg. 1H NMR (400 MHz, ACETONE-d6) δ ppm 2.23-2.33 (m, 1H), 2.74-2.84 (m, 1H), 2.85-3.01 (m, 2H), 3.75 (s, 3H), 4.26 (t, J=7.20 Hz, 1H), 6.55 (d, J=1.76 Hz, 1H), 7.29-7.36 (m, 3H), 7.41-7.47 (m, 2H), 7.55-7.60 (m, 2H), 7.62-7.66 (m, 2H), 10.66 (s, 1H); LCMS-MS (ESI+) 340.2 (M+Na).

reactant | methyl 4-(biphenyl-4-yl)-1,6-dihydrocyclopenta[b]pyrrole-2-carboxylate | C1(=CC=C(C=C1)C1=CCC=2NC(=CC21)C(=O)OC)C2=CC=CC=C2 | C21H17NO2
catalyst | Pd/C | [Pd] | Pd
product | methyl 4-(biphenyl-4-yl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | C1(=CC=C(C=C1)C1CCC=2NC(=CC21)C(=O)OC)C2=CC=CC=C2 | C21H19NO2
